US08729061B2
(2S,3S)-3-Amino-N-cyclopropyl-2-hydroxyhexanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using (S)-2-aminopentanoic acid in the first step (step B1).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | (S)-2-aminopentanoic acid | N[C@H](C(=O)O)CCC | C5H11NO2
product | (2S,3S)-3-Amino-N-cyclopropyl-2-hydroxyhexanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
